US04218458
To a stirred mixture of 10 parts of Raney-nickel catalyst and 96 parts of ethanol are added successively 9 parts of ammonium hydroxide and 9 parts of 4-(1-ethyl-2-mercapto-1H-imidazol-4-yl)phenol. Stirring is continued for 2 hours at reflux temperature. The reaction mixture is filtered and the filtrate is evaporated. The precipitated product is filtered off, washed with a small amount of a mixture of 2,2'-oxybispropane and ethanol, and dried, yielding 6.7 parts of 4-(1-ethyl-1H-imidazol-4-yl)phenol.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 4-(1-ethyl-2-mercapto-1H-imidazol-4-yl)phenol | C(C)N1C(=NC(=C1)C1=CC=C(C=C1)O)S | C11H12N2OS
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-(1-ethyl-1H-imidazol-4-yl)phenol | C(C)N1C=NC(=C1)C1=CC=C(C=C1)O | C11H12N2O
